US07319104B2
A mixture of 3-ethoxy-2-isopropylprop-2-enal (ref. Menicagli, R. et al. Tetrahedron 1987, 43, 171–177) (250 mg, 1.76 mmol) and urea (250 mg, 4.16 mmol) in ethanol (2.5 ml) was treated with concentrated HCl (0.5 ml) and heated to reflux for 1 hour. Upon cooling, the reaction mixture was neutralized with 1N NaOH (0.6 ml) and extracted with chloroform. The organic layer was dried over MgSO4 and concentrated to provide 5-isopropylpyrimidin-2(1H)-one as an off-white solid (0.20 g; 82% yield).

reactant | 3-ethoxy-2-isopropylprop-2-enal | 1.76 mmol, 250 mg | C(C)OC=C(C=O)C(C)C | C8H14O2
reactant | urea | 4.16 mmol, 250 mg | NC(=O)N | CH4N2O
reactant | HCl | 0.5 ml | Cl | ClH
reactant | NaOH | 1N, 0.6 ml | [OH-].[Na+]
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 5-isopropylpyrimidin-2(1H)-one | 82% yield | C(C)(C)C=1C=NC(NC1)=O | C7H10N2O
